US08003647B2
To a solution of 4-(3-cyano-6-hydroxy-5-methoxyindol-1-yl)benzoic acid ethyl ester (0.195 g) and pyridine (0.138 g) in dichloromethane (2.3 mL) was added trifluoromethanesulfonic anhydride (0.246 g) under ice cooling, and this mixture was stirred at the same temperature for 1 hour. To this reaction mixture was added 1 mol/L hydrochloric acid (0.370 mL) and water, and this organic layer was separated. This organic solvent was concentrated under reduced pressure to give 4-(3-cyano-5-methoxy-6-trifluoromethanesulfonyloxyindol-1-yl)benzoic acid ethyl ester (0.238 g). After to this product (0.070 g) was added toluene (1.5 mL), to this mixture was added cyclopropylboronic acid (0.016 g), potassium carbonate (0.031 g) and tetrakis(triphenylphosphine) palladium (0) (0.026 g), and this mixture was stirred at 80° C. for 1 day. The reaction mixture was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=75/25) to give the title compound (0.037 g).

reactant | 4-(3-cyano-6-hydroxy-5-methoxyindol-1-yl)benzoic acid ethyl ester | 0.195 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)O)OC)C#N)=O | C19H16N2O4
reactant | pyridine | 0.138 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.246 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 1 mol/L, 0.370 mL | Cl | ClH
solvent | dichloromethane | 2.3 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-(3-cyano-5-methoxy-6-trifluoromethanesulfonyloxyindol-1-yl)benzoic acid ethyl ester | 0.238 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)OS(=O)(=O)C(F)(F)F)OC)C#N)=O | C20H15F3N2O6S
